US08580824B2
To a solution of 3-{2-ethyl-4-[5-(2-ethyl-6-methyl-pyridin-4-yl)-[1,2,4]oxadiazol-3-yl]-6-methyl-phenyl}-propionic acid (26 mg, 69 μmol) and DIPEA (27 mg, 207 μmol) in DMF (3 mL) is added PyBOP (40 mg, 76 μmol) at 0° C. The mixture is stirred for 15 min at 0° C. before methylamine (2.4 mg, 76 μmol, 38 μL of a 2 M solution in THF) is added. Stirring is continued for 1 h at 0° C. The reaction is quenched with water (2 mL), and the mixture is diluted with sat. aq. NaHCO3 solution. The mixture is extracted twice with ether. The combined org. extracts are dried over MgSO4, filtered and concentrated. The crude product is purified on prep. TLC plates with heptane:EA 1:4 to give 3-{2-ethyl-4-[5-(2-ethyl-6-methyl-pyridin-4-yl)-[1,2,4]oxadiazol-3-yl]-6-methyl-phenyl}-N-methyl-propionamide (21 mg) as a white solid; LC-MS: tR=0.90 min; [M+1]+=393.45; 1H NMR δ 1.32 (t, J=7.5 Hz, 3 H), 1.40 (t, J=7.8 Hz, 3 H), 2.34-2.41 (m, 2 H), 2.45 (s, 3 H), 2.69 (s, 3 H), 2.77 (q, J=7.5 Hz, 2 H), 2.85 (d, J=4.8 Hz, 3 H), 2.95 (q, J=7.8 Hz, 2 H), 3.07-3.13 (m, 2H), 5.41 (s br, 1 H), 7.76 (s, 2 H), 7.84 (s, 1 H), 7.86 (s, 1 H).

reactant | 3-{2-ethyl-4-[5-(2-ethyl-6-methyl-pyridin-4-yl)-[1,2,4]oxadiazol-3-yl]-6-methyl-phenyl}-propionic acid | 69 μmol, 26 mg | C(C)C1=C(C(=CC(=C1)C1=NOC(=N1)C1=CC(=NC(=C1)C)CC)C)CCC(=O)O | C22H25N3O3
reactant | DIPEA | 207 μmol, 27 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | PyBOP | 76 μmol, 40 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | methylamine | CN | CH5N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | 3-{2-ethyl-4-[5-(2-ethyl-6-methyl-pyridin-4-yl)-[1,2,4]oxadiazol-3-yl]-6-methyl-phenyl}-N-methyl-propionamide | 21 mg | C(C)C1=C(C(=CC(=C1)C1=NOC(=N1)C1=CC(=NC(=C1)C)CC)C)CCC(=O)NC | C23H28N4O2
